** mux.pex.netlist
** Objective: Lab 1 Step 8: Performance analysis with parasitics
** Author: Cole Maxwell
** Created: Wed Sep 23 12:47:11 2020
** Program "Calibre xRC"
** Version "v2011.3_29.20"

*------------------------------------------------------------------------
* Parameters and models
*------------------------------------------------------------------------

* include transistor models. include command can also be used to include other spice files
.include '$PDK_DIR/ncsu_basekit/models/hspice/hspice_nom.include'

* Analysis commands
.param vdd_val = 1.1
Vsupply vdd 0 vdd_val
Vgnd gnd 0 0

* Digital vector file for input from same directory
.vec 'mux_pex_input.vec'

* Simulation options
.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2
+    POST

.include "mux.pex.netlist.pex"

.subckt not a gnd vdd
m0 y a gnd gnd NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m1 y a vdd vdd PMOS_VTL L=50e-9 W=180e-9 AD=18.9e-15 AS=18.9e-15 PD=390e-9 PS=390e-9 M=1
.ends not

.subckt mux  GND VDD Y B A S
* 
* S	S
* A	A
* B	B
* Y	Y
* VDD	VDD
* GND	GND
mXI0/MM0 N_NET18_XI0/MM0_d N_S_XI0/MM0_g N_GND_XI0/MM0_s N_GND_XI5/MM1_b
+ NMOS_VTL L=5e-08 W=9e-08 AD=9.45e-15 AS=9.45e-15 PD=3.9e-07 PS=3.9e-07
mXI0/MM1 N_NET18_XI0/MM1_d N_S_XI0/MM1_g N_VDD_XI0/MM1_s N_VDD_XI0/MM1_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=1.89e-14 AS=1.89e-14 PD=5.7e-07 PS=5.7e-07
mXI5/MM2 N_NET22_XI5/MM2_d N_A_XI5/MM2_g N_VDD_XI5/MM2_s N_VDD_XI0/MM1_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=2.52e-14 AS=1.89e-14 PD=6.4e-07 PS=5.7e-07
mXI5/MM3 N_NET22_XI5/MM2_d N_NET18_XI5/MM3_g N_VDD_XI5/MM3_s N_VDD_XI0/MM1_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=2.52e-14 AS=1.89e-14 PD=6.4e-07 PS=5.7e-07
mXI4/MM2 N_NET21_XI4/MM2_d N_S_XI4/MM2_g N_VDD_XI4/MM2_s N_VDD_XI0/MM1_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=2.52e-14 AS=1.89e-14 PD=6.4e-07 PS=5.7e-07
mXI4/MM3 N_NET21_XI4/MM2_d N_B_XI4/MM3_g N_VDD_XI4/MM3_s N_VDD_XI0/MM1_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=2.52e-14 AS=1.89e-14 PD=6.4e-07 PS=5.7e-07
mXI6/MM2 N_Y_XI6/MM2_d N_NET22_XI6/MM2_g N_VDD_XI6/MM2_s N_VDD_XI0/MM1_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=2.52e-14 AS=1.89e-14 PD=6.4e-07 PS=5.7e-07
mXI6/MM3 N_Y_XI6/MM2_d N_NET21_XI6/MM3_g N_VDD_XI6/MM3_s N_VDD_XI0/MM1_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=2.52e-14 AS=1.89e-14 PD=6.4e-07 PS=5.7e-07
mXI5/MM1 XI5/NET16 N_A_XI5/MM1_g N_GND_XI5/MM1_s N_GND_XI5/MM1_b NMOS_VTL
+ L=5e-08 W=9e-08 AD=1.26e-14 AS=9.45e-15 PD=4.6e-07 PS=3.9e-07
mXI5/MM0 N_NET22_XI5/MM0_d N_NET18_XI5/MM0_g XI5/NET16 N_GND_XI5/MM1_b NMOS_VTL
+ L=5e-08 W=9e-08 AD=9.45e-15 AS=1.26e-14 PD=3.9e-07 PS=4.6e-07
mXI4/MM1 XI4/NET16 N_S_XI4/MM1_g N_GND_XI4/MM1_s N_GND_XI5/MM1_b NMOS_VTL
+ L=5e-08 W=9e-08 AD=1.26e-14 AS=9.45e-15 PD=4.6e-07 PS=3.9e-07
mXI4/MM0 N_NET21_XI4/MM0_d N_B_XI4/MM0_g XI4/NET16 N_GND_XI5/MM1_b NMOS_VTL
+ L=5e-08 W=9e-08 AD=9.45e-15 AS=1.26e-14 PD=3.9e-07 PS=4.6e-07
mXI6/MM1 XI6/NET16 N_NET22_XI6/MM1_g N_GND_XI6/MM1_s N_GND_XI5/MM1_b NMOS_VTL
+ L=5e-08 W=9e-08 AD=1.26e-14 AS=9.45e-15 PD=4.6e-07 PS=3.9e-07
mXI6/MM0 N_Y_XI6/MM0_d N_NET21_XI6/MM0_g XI6/NET16 N_GND_XI5/MM1_b NMOS_VTL
+ L=5e-08 W=9e-08 AD=9.45e-15 AS=1.26e-14 PD=3.9e-07 PS=4.6e-07
*
.include "mux.pex.netlist.MUX.pxi"
*
.ends
*
*
x1 GND VDD Y B A S MUX
xi24 y gnd vdd not
xi23 y gnd vdd not
xi22 y gnd vdd not
xi21 y gnd vdd not
xi20 y gnd vdd not
xi19 y gnd vdd not
xi18 y gnd vdd not
xi17 y gnd vdd not
xi16 y gnd vdd not
xi15 y gnd vdd not
xi14 y gnd vdd not
xi13 y gnd vdd not
xi12 y gnd vdd not
xi11 y gnd vdd not
xi10 y gnd vdd not
xi9 y gnd vdd not
c0 y gnd 7e-15



*------------------------------------------------------------------------
* Stimulus
*------------------------------------------------------------------------

.tran 1p 600p

* 000 -> 100
*.MEASURE TRAN tdpr_000-100 TRIG=v(a) VAL='vdd_val/2' RISE=1 TARG=v(y) VAL='vdd_val/2' RISE=1
*.MEASURE TRAN tr_000-100 TRIG=v(y) VAL='0.2*vdd_val' RISE=1 TARG=v(y) VAL='0.8*vdd_val' RISE=1
* 100 -> 000
*.MEASURE TRAN tdpf_100-000 TRIG=v(a) VAL='vdd_val/2' FALL=1 TARG=v(y) VAL='vdd_val/2' FALL=1
*.MEASURE TRAN tf_100-000 TRIG=v(y) VAL='0.8*vdd_val' FALL=1 TARG=v(y) VAL='0.2*vdd_val' FALL=1
* 001 -> 101
*.MEASURE TRAN tdpr_001-101 TRIG=v(a) VAL='vdd_val/2' RISE=1 TARG=v(y) VAL='vdd_val/2' RISE=1
*.MEASURE TRAN tr_001-101 TRIG=v(y) VAL='0.2*vdd_val' RISE=1 TARG=v(y) VAL='0.8*vdd_val' RISE=1
* 101 -> 001
*.MEASURE TRAN tdpf_101-001 TRIG=v(a) VAL='vdd_val/2' FALL=1 TARG=v(y) VAL='vdd_val/2' FALL=1
*.MEASURE TRAN tf_101-001 TRIG=v(y) VAL='0.8*vdd_val' FALL=1 TARG=v(y) VAL='0.2*vdd_val' FALL=1


* 011 -> 001
*.MEASURE TRAN tdpf_011-001 TRIG=v(s) VAL='vdd_val/2' FALL=1 TARG=v(y) VAL='vdd_val/2' FALL=1
.MEASURE TRAN tf_011-001 TRIG=v(y) VAL='0.8*vdd_val' FALL=1 TARG=v(y) VAL='0.2*vdd_val' FALL=1
* 001 -> 011
*.MEASURE TRAN tdpr_001-011 TRIG=v(s) VAL='vdd_val/2' RISE=1 TARG=v(y) VAL='vdd_val/2' RISE=1
*.MEASURE TRAN tr_001-011 TRIG=v(y) VAL='0.2*vdd_val' RISE=1 TARG=v(y) VAL='0.8*vdd_val' RISE=1
* 110 -> 100
*.MEASURE TRAN tdpr_110-100 TRIG=v(s) VAL='vdd_val/2' FALL=1 TARG=v(y) VAL='vdd_val/2' RISE=1
*.MEASURE TRAN tr_110-100 TRIG=v(y) VAL='0.2*vdd_val' RISE=1 TARG=v(y) VAL='0.8*vdd_val' RISE=1
* 100 -> 110
*.MEASURE TRAN tdpf_100-110 TRIG=v(s) VAL='vdd_val/2' RISE=1 TARG=v(y) VAL='vdd_val/2' FALL=1
*.MEASURE TRAN tf_100-110 TRIG=v(y) VAL='0.8*vdd_val' FALL=1 TARG=v(y) VAL='0.2*vdd_val' FALL=1


* 111 -> 110
*.MEASURE TRAN tdpf_111-110 TRIG=v(b) VAL='vdd_val/2' FALL=1 TARG=v(y) VAL='vdd_val/2' FALL=1
*.MEASURE TRAN tf_111-110 TRIG=v(y) VAL='0.8*vdd_val' FALL=1 TARG=v(y) VAL='0.2*vdd_val' FALL=1
* 110 -> 111
*.MEASURE TRAN tdpr_110-111 TRIG=v(b) VAL='vdd_val/2' RISE=1 TARG=v(y) VAL='vdd_val/2' RISE=1
*.MEASURE TRAN tr_110-111 TRIG=v(y) VAL='0.2*vdd_val' RISE=1 TARG=v(y) VAL='0.8*vdd_val' RISE=1
* 010 -> 011
*.MEASURE TRAN tdpr_010-011 TRIG=v(b) VAL='vdd_val/2' RISE=1 TARG=v(y) VAL='vdd_val/2' RISE=1
*.MEASURE TRAN tr_010-011 TRIG=v(y) VAL='0.2*vdd_val' RISE=1 TARG=v(y) VAL='0.8*vdd_val' RISE=1
* 011 -> 010
*.MEASURE TRAN tdpf_011-010 TRIG=v(b) VAL='vdd_val/2' FALL=1 TARG=v(y) VAL='vdd_val/2' FALL=1
*.MEASURE TRAN tf_011-010 TRIG=v(y) VAL='0.8*vdd_val' FALL=1 TARG=v(y) VAL='0.2*vdd_val' FALL=1

.END
