* File: mux.pex.netlist.pex
* Created: Wed Sep 23 12:47:11 2020
* Program "Calibre xRC"
* Version "v2011.3_29.20"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MUX%GND 35 40 43 51 59 71 75 104 108 112
c60 112 0 0.0051297f
c61 108 0 0.0051223f
c62 104 0 0.00517159f
c63 71 0 0.384812f
c64 59 0 0.0165981f
c65 51 0 0.0165981f
c66 43 0 0.0165981f
c67 40 0 0.00530214f
c68 35 0 0.0150162f
r69 90 93 0.1406
r70 83 86 0.1349
r71 71 93 0.1501
r72 71 86 0.1387
r73 71 79 0.0726719
r74 71 90 0.3591
r75 71 83 0.3363
r76 71 75 0.0559038
r77 70 71 0.0707463
r78 64 112 0.00140741
r79 62 64 102.4
r80 59 62 1.75
r81 59 93 102.4
r82 56 108 0.00140741
r83 54 56 102.4
r84 51 54 1.75
r85 51 86 102.4
r86 48 104 0.00140741
r87 46 48 102.4
r88 43 46 1.75
r89 43 79 102.4
r90 38 40 102.4
r91 35 38 1.71429
r92 35 70 102.4
.ends

.subckt PM_MUX%VDD 63 65 73 84 86 90 95 106 108 112 117 119 125 128 130 132 134
+ 150 168 172 190 195 200 205 212 216
c86 216 0 0.00193867f
c87 200 0 0.00523896f
c88 190 0 0.00525813f
c89 168 0 0.386923f
c90 150 0 0.00180175f
c91 147 0 0.0181202f
c92 143 0 0.0181345f
c93 139 0 0.018256f
c94 134 0 0.0182167f
c95 132 0 0.00107728f
c96 130 0 0.00373511f
c97 128 0 0.00344121f
c98 125 0 0.00121223f
c99 119 0 0.00531488f
c100 117 0 0.00515894f
c101 112 0 0.0182762f
c102 110 0 0.00115659f
c103 108 0 0.00525387f
c104 106 0 0.003555f
c105 103 0 0.00120058f
c106 95 0 0.00501362f
c107 90 0 0.0182759f
c108 88 0 0.00115659f
c109 86 0 0.00519641f
c110 84 0 0.0035755f
c111 81 0 0.00138098f
c112 73 0 0.00501362f
c113 65 0 0.00366304f
c114 63 0 0.0238205f
r115 172 173 0.0874
r116 168 185 0.0697442
r117 168 181 0.0798447
r118 168 177 0.0782892
r119 168 173 0.1444
r120 168 172 0.0817
r121 167 168 0.07581
r122 163 168 0.1444
r123 160 163 0.1444
r124 160 168 0.247
r125 156 168 0.0732542
r126 134 185 102.4
r127 132 134 2.53571
r128 130 216 0.0422222
r129 128 130 102.4
r130 127 132 0.124138
r131 127 128 0.108621
r132 125 147 2.29464
r133 122 181 102.4
r134 120 147 0.124138
r135 120 122 0.108621
r136 119 212 0.0292308
r137 117 119 102.4
r138 116 125 0.124138
r139 116 117 0.108621
r140 112 177 102.4
r141 110 112 2.53571
r142 108 205 0.00703704
r143 106 108 102.4
r144 105 110 0.124138
r145 105 106 0.108621
r146 103 143 2.29464
r147 100 173 102.4
r148 98 143 0.124138
r149 98 100 0.108621
r150 97 200 0.0146154
r151 95 97 102.4
r152 94 103 0.124138
r153 94 95 0.108621
r154 90 167 102.4
r155 88 90 2.53571
r156 86 195 0.00703704
r157 84 86 102.4
r158 83 88 0.124138
r159 83 84 0.108621
r160 81 139 2.29464
r161 78 163 102.4
r162 76 139 0.124138
r163 76 78 0.108621
r164 75 190 0.0146154
r165 73 75 102.4
r166 72 81 0.124138
r167 72 73 0.108621
r168 68 156 102.4
r169 65 150 0.0140741
r170 63 65 102.4
r171 63 68 2.76786
.ends

.subckt PM_MUX%NET18 6 9 12 14 16 20 24 26 31 37 40
c68 40 0 0.00664049f
c69 37 0 0.0049881f
c70 31 0 0.00473042f
c71 26 0 0.0047236f
c72 24 0 0.0510622f
c73 20 0 0.00544374f
c74 16 0 0.00136023f
c75 14 0 0.0194421f
c76 12 0 0.00688348f
c77 9 0 0.0674644f
c78 6 0 0.0226094f
r79 34 37 0.1875
r80 34 45 102.4
r81 29 40 0.00964467
r82 27 29 102.4
r83 27 31 0.196429
r84 26 47 0.0143939
r85 24 26 102.4
r86 23 31 0.0146822
r87 23 24 3.94643
r88 22 37 0.0146822
r89 22 24 1.0625
r90 18 20 89.3538
r91 16 18 0.0146154
r92 15 47 0.0252118
r93 14 16 0.0223169
r94 14 15 3.94615
r95 12 45 0.00964467
r96 8 20 4.7687
r97 8 9 177.06
r98 5 20 4.7687
r99 5 6 46.02
.ends

.subckt PM_MUX%NET22 11 15 18 24 29 31 33 34 36 38 43 46 49 54 56
c85 56 0 0.00462627f
c86 49 0 0.00321327f
c87 46 0 0.00476026f
c88 43 0 0.0422762f
c89 40 0 0.00167255f
c90 38 0 0.00516493f
c91 36 0 0.00635207f
c92 34 0 0.00350478f
c93 33 0 0.00502219f
c94 31 0 0.00175666f
c95 29 0 0.00929322f
c96 24 0 0.00149593f
c97 18 0 0.042478f
c98 15 0 0.0341931f
c99 11 0 0.0583096f
r100 46 47 4.7687
r101 43 56 102.4
r102 41 43 0.553571
r103 40 43 3.40179
r104 38 54 0.0146154
r105 36 38 102.4
r106 35 40 0.124138
r107 35 36 0.108621
r108 33 41 0.139682
r109 33 34 0.410714
r110 31 49 0.0131034
r111 29 31 102.4
r112 28 34 0.139682
r113 28 29 0.785714
r114 26 46 89.3538
r115 24 26 0.0143939
r116 19 56 0.0223169
r117 18 24 0.0252118
r118 18 19 7.62923
r119 13 46 4.7687
r120 13 15 72.15
r121 11 47 152.1
.ends

.subckt PM_MUX%NET21 11 15 18 25 31 33 35 36 38 40 45 48 49 54 56
c74 56 0 0.00462736f
c75 49 0 0.00318862f
c76 48 0 0.00536409f
c77 45 0 0.0454209f
c78 42 0 0.00164749f
c79 40 0 0.00517569f
c80 38 0 0.00635207f
c81 36 0 0.00350478f
c82 35 0 0.00504708f
c83 33 0 0.00175617f
c84 31 0 0.00929322f
c85 25 0 0.00285509f
c86 18 0 0.0237781f
c87 15 0 0.0481035f
c88 11 0 0.0446889f
r89 56 58 0.0146154
r90 45 58 102.4
r91 43 45 1.5
r92 42 45 2.45536
r93 40 54 0.0146154
r94 38 40 102.4
r95 37 42 0.124138
r96 37 38 0.108621
r97 35 43 0.139682
r98 35 36 0.410714
r99 33 49 0.0131034
r100 31 33 102.4
r101 30 36 0.139682
r102 30 31 0.785714
r103 25 28 0.0146154
r104 25 48 89.3538
r105 19 56 0.0223169
r106 18 28 0.0223169
r107 18 19 3.97538
r108 13 48 4.7687
r109 13 15 114.66
r110 10 48 4.7687
r111 10 11 109.59
.ends

.subckt PM_MUX%Y 11 17 19 21 23 24 25 27 29 34 40 44 46
c38 46 0 0.00466978f
c39 40 0 0.00212107f
c40 34 0 0.0490265f
c41 31 0 0.00171818f
c42 29 0 0.00521099f
c43 27 0 0.00635538f
c44 25 0 0.00349759f
c45 24 0 0.00506038f
c46 23 0 0.00679383f
c47 21 0 0.00326381f
c48 19 0 0.00102838f
c49 17 0 4.07119e-19
c50 11 0 0.0303874f
r51 46 48 0.0292308
r52 34 48 102.4
r53 32 34 2.3125
r54 31 34 1.64286
r55 29 44 0.0146154
r56 27 29 102.4
r57 26 31 0.126465
r58 26 27 0.1
r59 24 32 0.139682
r60 24 25 0.410714
r61 22 25 0.139682
r62 22 23 0.544643
r63 21 40 0.0262069
r64 19 21 102.4
r65 17 23 0.124138
r66 17 19 0.108621
r67 9 46 0.0223169
r68 9 11 2.32385
.ends

.subckt PM_MUX%B 4 7 10 12 14 16
c50 16 0 0.0055088f
c51 14 0 0.00158203f
c52 10 0 0.0698018f
c53 7 0 0.0576539f
c54 4 0 0.0335814f
r55 16 19 4.7687
r56 16 18 4.7687
r57 14 16 89.3538
r58 10 14 0.0223169
r59 10 12 12.7446
r60 7 19 145.47
r61 4 18 77.61
.ends

.subckt PM_MUX%A 4 7 10 12 14 18
c38 18 0 0.00479045f
c39 14 0 0.00131726f
c40 10 0 0.0474792f
c41 7 0 0.0334047f
c42 4 0 0.0563671f
r43 16 18 89.3538
r44 14 16 0.0146154
r45 10 14 0.0223169
r46 10 12 6.92769
r47 6 18 4.7687
r48 6 7 69.81
r49 3 18 4.7687
r50 3 4 153.27
.ends

.subckt PM_MUX%S 4 8 12 15 18 20 22 24 31 33
c57 33 0 0.00468951f
c58 31 0 0.00149605f
c59 28 0 0.00553523f
c60 24 0 0.0023506f
c61 22 0 0.0368187f
c62 18 0 0.0200324f
c63 15 0 0.0461177f
c64 12 0 0.044759f
c65 8 0 0.0601727f
c66 4 0 0.0588808f
r67 33 38 4.7687
r68 33 37 4.7687
r69 31 33 89.3538
r70 31 34 0.0138686
r71 26 28 89.3538
r72 26 29 0.0146154
r73 24 26 0.0146154
r74 23 24 0.0223169
r75 22 34 0.0322149
r76 22 23 8.46231
r77 18 29 0.0223169
r78 18 20 2.85
r79 15 38 109.98
r80 12 37 113.1
r81 7 28 4.7687
r82 7 8 111.15
r83 3 28 4.7687
r84 3 4 113.49
.ends

