************************************************************************
* auCdl Netlist:
* 
* Library Name:  gates
* Top Cell Name: mux
* View Name:     schematic
* Netlisted on:  Sep 23 12:47:04 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: gates
* Cell Name:    not
* View Name:    schematic
************************************************************************

.SUBCKT not A GND VDD Y
*.PININFO A:I GND:I VDD:I Y:O
MM0 Y A GND GND NMOS_VTL W=90n L=50n m=1
MM1 Y A VDD VDD PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: gates
* Cell Name:    nand
* View Name:    schematic
************************************************************************

.SUBCKT nand A B GND VDD Y
*.PININFO A:I B:I GND:I VDD:I Y:O
MM1 Y A net16 GND NMOS_VTL W=90n L=50n m=1
MM0 net16 B GND GND NMOS_VTL W=90n L=50n m=1
MM3 Y B VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM2 Y A VDD VDD PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: gates
* Cell Name:    mux
* View Name:    schematic
************************************************************************

.SUBCKT mux A B GND S VDD Y
*.PININFO A:I B:I GND:I S:I VDD:I Y:O
XI0 S GND VDD net18 / not
XI4 S B GND VDD net21 / nand
XI6 net22 net21 GND VDD Y / nand
XI5 A net18 GND VDD net22 / nand
.ENDS

